US07259183B2
Preparation of 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[(R)-2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amide
To a solution of 48 mg (0.3 mmol) of 1H-indole-7-carboxylic acid and 96 mg of TBTU (0.3 mmol) in 3 ml DMF, were added 0.26 ml (1.5 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 95 mg (0.3 mmol) of (4-tert-butyl-benzyl)-[(R)-2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine were added. After stirring for 24 h at rt, the reaction mixture was diluted with 50 ml water and extracted with 2×50 ml EtOAc. The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; EtOAc/heptane 1:6) to give 72 mg light yellow solid (50%). MS (ISP) 461.4 (M+H)+.

reactant | 1H-indole-7-carboxylic acid | 0.3 mmol, 48 mg | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | TBTU | 0.3 mmol, 96 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 1.5 mmol, 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-[(R)-2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine | 0.3 mmol, 95 mg | C(C)(C)(C)C1=CC=C(CNC[C@H](O)C2=CC=C(C=C2)Cl)C=C1 | C19H24ClNO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[(R)-2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amide | 72 mg, 50% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)C[C@H](O)C2=CC=C(C=C2)Cl)C=C1 | C28H29ClN2O2
